US06229011B1
N-[(2,6-Dichlorophenyl)carbonyl]-4-[[(2-chloro-6-methylphenyl)carbonyl]amino]-L-phenylalanine methyl ester was prepared from 4-[[(2-chloro-6-methylphenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2,6-dichlorobenzoic acid using the general procedure described in example 3.

reactant | 4-[[(2-chloro-6-methylphenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1C)Cl)=O | C18H19ClN2O3
reactant | 2,6-dichlorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
product | N-[(2,6-Dichlorophenyl)carbonyl]-4-[[(2-chloro-6-methylphenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1C)Cl)=O | C25H21Cl3N2O4
